US08975254B2
d) N-(2-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-4-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid (303 mg, 1.60 mmol) and 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile (362 mg, 1.60 mmol) using the method of Example 34(d). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-20% MeOH/DCM) to obtain 44 mg (6%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.49 (s, 3H), 3.71 (q, 2H), 4.37 (t, 2H), 6.84 (d, 1H), 7.31 (s, 1H), 7.74 (m, 2H), 7.70 (s, 1H), 7.79 (dd, 1H), 7.83 (d, 1H), 7.88 (s, 1H), 8.55 (br s, 1H), 8.63 (m, 2H), 13.99 (s, 1H).

reactant | 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid | 1.60 mmol, 303 mg | N1=CC=C(C=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 1.60 mmol, 362 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C | C13H14N4
product | N-(2-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-4-yl)-1H-pyrazole-5-carboxamide | 44 mg, 6% | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C1=CC=NC=C1)C | C22H19N7O
